US08030311B2
Step 69.1: (4-Purin-9-yl-phenyl)-acetic acid
A mixture of [4-(6-chloro-purin-9-yl)phenyl]-acetic acid ethyl ester (182 mg, 0.60 mmol) and Pd/C (10%) in MeOH containing 5% ammonia (15 mL) is stirred for 22 h at rt and under hydrogen (2 bar). The reaction mixture is filtered through a pad of celite and concentrated. The residue is purified by silica gel column chromatography (CH2Cl2/MeOH, 95:5), followed by trituration in Et2O to afford a mixture of (4-purin-9-yl-phenyl)-acetic acid methyl and ethyl ester. This mixture is treated with a 2 N aqueous solution of LiOH (0.5 mL), and THF (1 mL) for 3 h at 50° C. The reaction mixture is allowed to cool to rt and then acidified by addition of 0.5 N HCl aqueous solution. The resulting precipitate is collected by vacuum filtration to provide the title compound as a white solid: ES-MS: 255.1 [M+H]+; tR=1.93 min (System 1).

reactant | [4-(6-chloro-purin-9-yl)phenyl]-acetic acid ethyl ester | 0.60 mmol, 182 mg | C(C)OC(CC1=CC=C(C=C1)N1C2=NC=NC(=C2N=C1)Cl)=O | C15H13ClN4O2
reactant | LiOH | 0.5 mL | [Li+].[OH-]
reactant | THF | 1 mL | C1CCOC1 | C4H8O
reactant | HCl | 0.5 N | Cl | ClH
solvent | MeOH | 15 mL | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | (4-Purin-9-yl-phenyl)-acetic acid | N1=CN=C2N(C=NC2=C1)C1=CC=C(C=C1)CC(=O)O | C13H10N4O2
